US07354942B2
A solution of 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)benzoic acid (10.25 mg, 0.021 mmol), (R)-1-(4-fluorophenyl)ethanamine (0.0085 mL, 0.063 mmol), benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate (12 mg, 0.025 mmol) and diisopropylethylamine (0.012 mL, 0.07 mmol) in 0.2 mL DMF was stirred at rt overnight. Purification by reverse phase preparative HPLC (5-95% MeCN/H2O containing 0.1% TFA, C18 PRO YMC 20×150 mm) gave 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)-N-(1-(4-fluorophenyl)ethyl)benzamide which was subsequently dissolved in 0.2 mL CH2Cl2 and 0.5 mL TFA. The reaction mixture was stirred for 1 h and concentrated. Lyophilization gave 3-((2-amino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)-N-(1-(4-fluorophenyl)ethyl)benzamide as the TFA salt. 1H NMR (400 MHz, CD3OD) δ 8.93 (d, J=8.0 Hz, 1H), 7.92 (app d, J=1.6 Hz, 1H), 7.85 (s, 1H), 7.74 (s, 1H), 7.42 (m, 2H), 7.28 (m, 3H), 7.18 (m, 2H), 7.05 (m, 2H), 5.25 (m, 1H), 4.70 (m, 2H), 3.44 (A of AB, d, J=10.1 Hz, 1H), 3.38 (B of AB, d, J=10.1 Hz, 1H), 3.09 (d, J=13.4 Hz, 1H), 2.86 (d, J=13.4 Hz, 1H), 2.50 (m, 2H), 2.18 (m, 2H), 2.03 (m, 4H), 1.58 (d, J=7.0 Hz, 3H), 1.25 (s, 3H).

reactant | 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)benzoic acid | 0.021 mmol, 10.25 mg | C(C)(C)(C)OC(=O)NC(COCC=1C=C(C(=O)O)C=C(C1)C1(CCCC1)C#N)(CC1=CC=CC=C1)C | C29H36N2O5
reactant | (R)-1-(4-fluorophenyl)ethanamine | 0.063 mmol, 0.0085 mL | FC1=CC=C(C=C1)[C@@H](C)N | C8H10FN
reactant | benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate | 0.025 mmol, 12 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | 0.07 mmol, 0.012 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)-N-(1-(4-fluorophenyl)ethyl)benzamide | C(C)(C)(C)OC(=O)NC(COCC=1C=C(C(=O)NC(C)C2=CC=C(C=C2)F)C=C(C1)C1(CCCC1)C#N)(CC1=CC=CC=C1)C | C37H44FN3O4
